US08084448B2
B. N-(3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propyl)-acetamide
To a solution of 5-[4-(3-aminopropyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one TFA salt (124 mg, 0.26 mmol) in methylene chloride (5 mL) is added diisopropylethylamine (0.1 mg, 0.781 mmol) then acetyl chloride (21 mg, 0.267 mmol) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and 1 N HCl is added. The mixture is extracted with ether and the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using a gradient of 10-50% EtOAc/hexane as eluent to give the title compound.

reactant | 5-[4-(3-aminopropyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one TFA salt | 0.26 mmol, 124 mg | OC(=O)C(F)(F)F.NCCCC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1
reactant | diisopropylethylamine | 0.781 mmol, 0.1 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.267 mmol, 21 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propyl)-acetamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCCNC(C)=O | C25H35N3O5SSi
